US09238639B2
E) Methyl(4,7-dimethyl-6-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate
To a mixture of tri-n-butylphosphine (0.196 mL), (2-methyl-6-(trifluoromethyl)pyridin-3-yl)methanol (105 mg), methyl(6-hydroxy-4,7-dimethyl-1-benzothiophen-3-yl)acetate (130.9 mg) and THF (5.0 mL) was added ADDP (198 mg) at room temperature. The mixture was stirred at room temperature overnight under nitrogen atmosphere. The mixture was concentrated in vacuo. To the residue was added IPE, and the precipitate was filtered off. The filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (159 mg) as solid. The solid was crystallized from EtOAc-hexane.

reactant | tri-n-butylphosphine | 0.196 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | (2-methyl-6-(trifluoromethyl)pyridin-3-yl)methanol | 105 mg | CC1=NC(=CC=C1CO)C(F)(F)F | C8H8F3NO
reactant | methyl(6-hydroxy-4,7-dimethyl-1-benzothiophen-3-yl)acetate | 130.9 mg | COC(CC1=CSC2=C1C(=CC(=C2C)O)C)=O | C13H14O3S
reactant | ADDP | 198 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | Methyl(4,7-dimethyl-6-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate | 159 mg | COC(CC1=CSC2=C1C(=CC(=C2C)OCC=2C(=NC(=CC2)C(F)(F)F)C)C)=O | C21H20F3NO3S
